US04554020
Preparation of triethanolammonium borogluconate solution
35.6 grams of gluconolactone and 12.2 grams of technical grade boric acid were added to 50 ml. of water at room temperature. The resultant mixture was stirred and heated at about 50° C. for about 4 hours and the water allowed to evaporate to reduce the mixture volume to about 45 ml. The mixture was then cooled to room temperature and 28 grams of triethanolamine were added with stirring.

reactant | gluconolactone | 35.6 grams | C([C@@H]1[C@H]([C@@H]([C@H](C(=O)O1)O)O)O)O | C6H10O6
reactant | boric acid | B(O)(O)O | BH3O3
solvent | water | O | H2O
product | borogluconate | B1(OC(C(O1)C(C(C(=O)O)O)O)CO)O | C6H11BO8
